US05480580
In 50 ml of 7 wt. % hydrochloric acid methanol solution was dissolved 1.18 g of β-hydroxyisovaleric acid, and an reaction was allowed to proceed at room temperature overnight. The solvent was removed from the solution as reacted by distillation under a reduced pressure to obtain 1.30 g of crude methyl β-hydroxyisovalerate. The crude methyl β-hydroxyisovalerate was dissolved in diethyl ether, and 0.91 g of 3,4-dihydro-2H-pyran and a catalytic amount of p-toluenesulfonic acid were added thereto. Stirring was continued at room temperature overnight for reaction. The resultant reaction mixture was washed with a saturated aqueous solution of sodium hydrogencarbonate and then with water and dried over magnesium sulfate. The solvent was removed from the dried reaction mixture by distillation under a reduced pressure to obtain 1.98 g of crude methyl β-dihydropyranyloxyisovalerate.

reactant | β-hydroxyisovaleric acid | 1.18 g | OC(CC(=O)O)(C)C | C5H10O3
reactant | hydrochloric acid methanol | CO.Cl
product | methyl β-hydroxyisovalerate | 1.30 g | OC(CC(=O)OC)(C)C | C6H12O3
